US08748442B2
To a suspension of 2,2′-(4-bromo-1-(2-fluorobenzyl)-1H-pyrazole-3,5-diyl)dipyridine (200 mg, 0.489 mmol) in N,N-dimethylformamide (3.4 mL) was added copper (I) cyanide (253 mg, 2.69 mmol). The suspension was stirred at 150° C. for 2 h, at which point LC/MS indicated a complete reaction. The solution was cooled to 23° C. and 5 mL of water, 5 mL of ammonium hydroxide, and 5 mL of ethyl acetate were added. The blue heterogeneous mixture was stirred rapidly for 40 min, and then further diluted with ethyl acetate (150 mL) and water (75 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×75 mL). The organics were combined and washed with water (75 mL) and brine (75 mL), dried over magnesium sulfate, filtered, and the solvent was removed in vacuo to give the crude product as an oil. Purification by silica gel chromatography (hexanes/ethyl acetate) gave 1-(2-fluorobenzyl)-3,5-di(pyridin-2-yl)-1H-pyrazole-4-carbonitrile (161 mg, 0.453 mmol, 93% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.77-8.73 (m, 2H), 8.05-8.03 (m, 1H), 7.96-7.94 (m, 1H), 7.87 (dt, 1H), 7.78 (dt, 1H), 7.40-7.36 (m, 1H), 7.33-7.30 (m, 1H), 7.23-7.17 (m, 1H), 7.07-6.94 (m, 3H), 5.97 (s, 2H).

reactant | 2,2′-(4-bromo-1-(2-fluorobenzyl)-1H-pyrazole-3,5-diyl)dipyridine | 0.489 mmol, 200 mg | BrC=1C(=NN(C1C1=NC=CC=C1)CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C20H14BrFN4
reactant | copper (I) cyanide | 2.69 mmol, 253 mg | [Cu]C#N
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 3.4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 75 mL | O | H2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | 1-(2-fluorobenzyl)-3,5-di(pyridin-2-yl)-1H-pyrazole-4-carbonitrile | 0.453 mmol, 161 mg, 93% yield | FC1=C(CN2N=C(C(=C2C2=NC=CC=C2)C#N)C2=NC=CC=C2)C=CC=C1 | C21H14FN5
